US04271188
To ethyl-4-(4-chlorobenzylamino)-benzoate (5.8 g; 0.02 mole) was added 80% formic acid (30 ml) and 40% formaldehyde solution (10 ml) and the mixture was heated at 100° C. for 6 hours. The reaction mixture was cooled to room temperature, water (60 ml) added and the product filtered, dried under vacuum at 60° C. and was crystallised from ethanol to give N-(4-ethoxycarbonylphenyl)-N-(4-chlorobenzyl)-methylamine (4.86 g; 80%). M.p. 106°-7° C.

reactant | ethyl-4-(4-chlorobenzylamino)-benzoate | 0.02 mole, 5.8 g | C(C)OC(C1=CC=C(C=C1)NCC1=CC=C(C=C1)Cl)=O | C16H16ClNO2
reactant | formic acid | 30 ml | C(=O)O | CH2O2
reactant | formaldehyde | 10 ml | C=O | CH2O
solvent | water | 60 ml | O | H2O
product | N-(4-ethoxycarbonylphenyl)-N-(4-chlorobenzyl)-methylamine | 4.86 g, 80% | C(C)OC(=O)C1=CC=C(C=C1)N(CC1=CC=C(C=C1)Cl)C | C17H18ClNO2
